US09056859B2
Step D: (5-Methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl)acetaldehyde
To a MeOH solution of 5-Methyl-6-(prop-2-en-1-yl)-3,4-dihydro-1H-isochromen-1-one (60 mg, 0.30 mmol) was bubbled ozone until it turned blue. Excess ozone was removed by bubbling nitrogen through. To the reaction was added DMS (0.22 ml, 3.0 mmol), and it was allowed to warm up slowly. The reaction was diluted with EtOAc, washed with water, and purified by MPLC to give the title compound. LC-MS (IE, m/z): 205 [M+1]+.

reactant | MeOH | CO | CH4O
reactant | 5-Methyl-6-(prop-2-en-1-yl)-3,4-dihydro-1H-isochromen-1-one | 0.30 mmol, 60 mg | CC1=C2CCOC(C2=CC=C1CC=C)=O | C13H14O2
reactant | ozone | O=[O+][O-] | O3
reactant | DMS | 3.0 mmol, 0.22 ml | CSC | C2H6S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-Methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl)acetaldehyde | CC1=C2CCOC(C2=CC=C1CC=O)=O | C12H12O3
